US07365225B2
5-{[(3-cyclopentylpropanoyl)(4-{[(4-phenylbutyl)amino]carbonyl}benzyl)amino]methyl}-2-hydroxybenzoic acid
The title compound was prepared following the procedure A using 4-phenylbutylamine, 4-(chloromethyl)benzoyl chloride, 3-cyclopentylpropanoyl chloride and 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate. M+(ESI): 557.5

reactant | 4-phenylbutylamine | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate | C(C)(=O)O.NCC1=CC2=C(OC(OC2=O)(C)C)C=C1
product | 5-{[(3-cyclopentylpropanoyl)(4-{[(4-phenylbutyl)amino]carbonyl}benzyl)amino]methyl}-2-hydroxybenzoic acid | C1(CCCC1)CCC(=O)N(CC1=CC=C(C=C1)C(=O)NCCCCC1=CC=CC=C1)CC=1C=CC(=C(C(=O)O)C1)O | C34H40N2O5
